US07723378B2
To a solution of 3-{2-ethyl-6-methyl-4-[3-oxo-3-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propenyl]-phenyl}-acrylic acid (340 mg, 0.805 mmol) and DIPEA (182 mg, 1.41 mmol) in ethanol, Pd/C (340 mg, 10% Pd, moistened with 50% water) is added and the resulting slurry is stirred at 50° C. for 72 h under 10 bar of H2. Another portion of Pd/C is added and stirring is continued for 16 h at 50° C. under 10 bar of H2. The reaction mixture is filtered and the filtrate is evaporated. The crude product is purified by prep. HPLC (Grom-Sil 120 ODS-4-HE, 30×75 mm, 10 μm, acetonitrile/water (0.5% HCOOH), 20% to 95% acetonitrile) to give 3-{2-ethyl-6-methyl-4-[3-oxo-3-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propyl]-phenyl}-propionic acid (154 mg) as a colourless foam; LC-MS: tR=1.15 min, [M+1]=427.30.

reactant | 3-{2-ethyl-6-methyl-4-[3-oxo-3-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propenyl]-phenyl}-acrylic acid | 0.805 mmol, 340 mg | C(C)C1=C(C(=CC(=C1)C=CC(C=1SC(=C2C1CCC(C2)(C)C)C)=O)C)C=CC(=O)O | C26H30O3S
reactant | DIPEA | 1.41 mmol, 182 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 340 mg | [Pd] | Pd
product | 3-{2-ethyl-6-methyl-4-[3-oxo-3-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propyl]-phenyl}-propionic acid | 154 mg | C(C)C1=C(C(=CC(=C1)CCC(C=1SC(=C2C1CCC(C2)(C)C)C)=O)C)CCC(=O)O | C26H34O3S
